US08455488B2
Synthesis of 4-benzyl-1-(2-((S)-1-(benzyl((S)-1,1-diethoxypropan-2-yl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide (Compound II-15)
2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid VI-3) 115 mg (0.49 mmol) and NMM (N-methylmorpholine) 0.33 ml were added in DMF 1.5 ml. Then, HOBt (hydroxybenzotriazole) 88 mg (0.65 mmol) and EDCI (N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride) 125 mg (0.65 mmol) were added and stirred at room temperature for 10 min. Compound (S)-2-amino-N-benzyl-N—((S)-1,1-diethoxypropan-2-yl)propanamide (IV-10) 100 mg (0.32 mmol) in DCM 1.5 ml and DMAP 4.1 mg (0.03 mmol) were added. The mixture was stirred overnight at room temperature. The mixture was diluted with EA 30 ml and washed with 10% citric acid 15 ml, sat. NaHCO3 15 ml and brine 15 ml. The solvent was removed in vacuum to give crude product, which was used directly in the next step.

reactant | 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid | C(C1=CC=CC=C1)NC(=O)NN(C)CC(=O)O | C11H15N3O3
reactant | NMM | 0.33 ml | CN1CCOCC1 | C5H11NO
reactant | HOBt | 0.65 mmol, 88 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | EDCI | 0.65 mmol, 125 mg | Cl.CN(CCCN=C=NCC)C
reactant | (S)-2-amino-N-benzyl-N—((S)-1,1-diethoxypropan-2-yl)propanamide | 0.32 mmol, 100 mg | N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC1=CC=CC=C1)C | C17H28N2O3
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.03 mmol, 4.1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EA | 30 ml | CC(OCC)=O | C4H8O2
product | 4-benzyl-1-(2-((S)-1-(benzyl((S)-1,1-diethoxypropan-2-yl)amino)-1-oxopropan-2-ylamino)-2-oxoethyl)-1-methylsemicarbazide | C(C1=CC=CC=C1)NC(NN(C)CC(=O)N[C@H](C(=O)N([C@H](C(OCC)OCC)C)CC1=CC=CC=C1)C)=O | C28H41N5O5
